US08471005B2
Into a Round bottom flask, 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (4.00 g, 0.0164 mol) and Methylene chloride (100 mL) were added. m-Chloroperbenzoic acid (77% max)(5.14 g, 0.0229 mol) was added portion wise over 20 minutes and the reaction was stirred at room temperature for one hour. The mixture was partitioned with DCM (200 mL) and saturated NaHCO3 (200 mL). Organic extracts were washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum to give a yellow solid. The solid was washed with hexane to afford 3.27 grams of 7-Bromo-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine as a yellow powder. 1H NMR (400 MHz, DMSO, d6) δ 9.34 (s, 1H), 7.51 (m, 1H), 7.41 (d, 1H, J=4.71 Hz), 3.43 (s, 3H).

reactant | 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.0164 mol, 4.00 g | BrC1=CC=C2C=NC(=NN21)SC | C7H6BrN3S
reactant | m-Chloroperbenzoic acid | 0.0229 mol, 5.14 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | Methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 7-Bromo-2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazine | 3.27 grams | BrC1=CC=C2C=NC(=NN21)S(=O)C | C7H6BrN3OS
